US07026266B2
2 g of 2,2′Bipyridine was charged into a reactor, and 20 cc of concentrated sulfuric acid was added to it. This mixture was stirred until the amine dissolved. 20 cc of oleum 65% was added to this mixture under rapid stirring, and the reactor was cooled to about 20° C. After the solution of oleum, the reactants and contents were heated to 50° C. and maintained at this temperature for 48 hours. The reactor and its contents were cooled, and distilled water (10 cc) was added to the reaction mixture to quench the oleum. 50% NaOH solution was added to this solution, under cooling (10° C.) until the sulfuric acid solution was neutralized. The solution was concentrated and then methanol was added to extract the water-soluble ligand from the sodium sulfate powder. The methanol was evaporated to yield the water-soluble sodium salt of 2,2′bipyridine di sulfonic acid. [1.2 g] The product consists of mixtures of the bis sulfonation products as indicated by elemental analysis and 1h NMR. These can be used as such in synthesis of metal complexes for catalysis.

reactant | 2,2′Bipyridine | 2 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | sulfuric acid | 20 cc | S(O)(O)(=O)=O | H2O4S
solvent | oleum | 20 cc | OS(=O)(=O)O.O=S(=O)=O
product | 2,2′bipyridine di sulfonic acid | N1=C(C(=C(C=C1)S(=O)(=O)O)S(=O)(=O)O)C1=NC=CC=C1 | C10H8N2O6S2
